US08865707B2
Step D. 3-amino-2-phenylpropan-1-ol
A cooled (0° C.) solution of 2-(3 {[tert-butyl(dimethyl)silyl]oxy}-2-phenylpropyl)-1H-isoindole-1,3(2H)-dione (0.900 g, 2.28 mmol) in EtOH (10 mL) was treated with hydrazine hydrate (1.41 mL, 3.42 mmol) and the resultant solution was allowed to warm to room temperature and stirred for 18 h. A solution of 5 N aqueous HCl in EtOH (25 mL) was added and the resulting biphasic mixture was stirred for 3 h. The mixture was treated with sat. NaHCO3, until PH=9 attained and then extracted with EtOAC (3×60 ml). The combined organic extracts were washed with brine (50 mL), dried (MgSO4), filtered and concentrated to afford the title compound as a white solid. LCMS=152.2 (M+1)+.

reactant | 2-(3 {[tert-butyl(dimethyl)silyl]oxy}-2-phenylpropyl)-1H-isoindole-1,3(2H)-dione | 2.28 mmol, 0.900 g | [Si](C)(C)(C(C)(C)C)OCC(CN1C(C2=CC=CC=C2C1=O)=O)C1=CC=CC=C1 | C23H29NO3Si
reactant | hydrazine hydrate | 3.42 mmol, 1.41 mL | O.NN
reactant | HCl | 5 N | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | EtOH | 25 mL | CCO | C2H6O
product | 3-amino-2-phenylpropan-1-ol | NCC(CO)C1=CC=CC=C1 | C9H13NO
